US07576215B2
ETHYL 4-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOATE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 4-Isocyanato-benzoic acid ethyl ester according to the procedure of Example 65. HRMS: calcd for C33H24F3N3O4, 583.1719; found (ESI, [M+H]+), 584.1801.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4-Isocyanato-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N=C=O)=O | C10H9NO3
product | ETHYL 4-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOATE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=CC=C(C(=O)OCC)C=C1)C(F)(F)F | C33H24F3N3O4
